US08058441B2
(a). 1-Acetyl-6-(bromoacetyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (130 mg) with bromoacetyl chloride (69 μl) and N,N-diisopropylethylamine (121 μl) in dichloromethane (10 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 130 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | bromoacetyl chloride | 69 μl | BrCC(=O)Cl | C2H2BrClO
reactant | N,N-diisopropylethylamine | 121 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-Acetyl-6-(bromoacetyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(CBr)=O)(C)C1=CC=CC=C1)(C)C | C22H25BrN2O2
